US04000297
N-p-chloro-benzoyl-L-tryptophane calcium salt.
A solution of 34.2 g (0.1 moles) of N-p-chlorobenzoyl-L-tryptophane in 1,000 ml of 0.1 N NaOH, kept at room temperature, was quickly admixed while stirring with 6.05 g (0.11 equiv.) of CaCl2 previously dissolved in 100 ml H2O. The N-p-chlorobenzoyl-L-triptophane starts precipitating forthwith in the form of calcium salt. The reaction mass is stirred during two hours at least to allow the precipitate of conveniently enlarging in volume. The resulting precipitate is filtered and washed with water till chlorine ions disappear. The product is dried in a circulating air oven at 90° C during 12 hours. 34.4 g product are obtained.

reactant | N-p-chlorobenzoyl-L-tryptophane | 0.1 moles, 34.2 g | ClC1=CC=C(C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)O)C=C1 | C18H15ClN2O3
reactant | CaCl2 | 6.05 g, 0.11 equiv. | [Cl-].[Cl-].[Ca+2]
solvent | NaOH | 0.1 N, 1,000 ml | [OH-].[Na+]
solvent | H2O | 100 ml | O | H2O
product | N-p-chloro-benzoyl-L-tryptophane calcium salt | 34.4 g, Yield 93% | [Ca+2].ClC1=CC=C(C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)[O-])C=C1.ClC1=CC=C(C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)[O-])C=C1 | InChI=1S/2C18H15ClN2O3.Ca/c2*19-13-7-5-11(6-8-13)17(22)21-16(18(23)24)9-12-10-20-15-4-2-1-3-14(12)15;/h2*1-8,10,16,20H,9H2,(H,21,22)(H,23,24);/q;;+2/p-2/t2*16-;/m00./s1
